US09126993B2
1-(1-azabicyclo[2.2.2]oct-3-yl)-3-(2-phenylpropan-2-yl)urea
Using general procedure C, quinuclidin-3-amine (102 mg, 0.6 mmol), CDI (131 mg, 0.789 mmol) and cumylamine (95 mg, 0.70 mmol) gave the title compound as a white solid (21 mg, 10%). 1H NMR (400 MHz, CDCl3) δ 7.61-7.47 (m, 2H), 7.44-7.37 (m, 2H), 7.34-7.28 (m, 1H), 4.86 (s, 1H), 4.20 (d, J=7.3 Hz, 1H), 3.71-3.60 (m, 1H), 3.14 (ddd, J=2.3, 9.4, 14.2 Hz, 1H), 2.79-1.89 (m, 6H), 1.64 (d, J=3.3 Hz, 6H), 1.58-1.10 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 157.4, 146.2, 129.3, 127.8, 125.8, 57.1, 54.9, 47.7, 47.1, 46.7, 30.6, 30.5, 26.0, 20.3 ppm. Purity: 79% UPLCMS (210 nm); retention time 0.61 min; (M+1) 288.2.

reactant | quinuclidin-3-amine | 0.6 mmol, 102 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | CDI | 0.789 mmol, 131 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cumylamine | 0.70 mmol, 95 mg | C(C)(C)(C1=CC=CC=C1)N | C9H13N
product | 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-(2-phenylpropan-2-yl)urea | 21 mg, 10% | N12CC(C(CC1)CC2)NC(=O)NC(C)(C)C2=CC=CC=C2 | C17H25N3O
